US05192781
3 g of 2,4-dimethyl-5-(4-aminobenzyl)thiazole are dissolved in 75 ml of acetonitrile, and 2 g of phthalic anhydride are added in portions. The medium is stirred for 6 hours at room temperature and the precipitate is then filtered off and washed with ethyl acetate to give 3.3 g of 2-[4-((2,4-dimethylthiazol-5-yl)methyl)phenylaminocarbonyl]benzoic acid in the form of crystals melting at 182° C.

reactant | 2,4-dimethyl-5-(4-aminobenzyl)thiazole | 3 g | CC=1SC(=C(N1)C)CC1=CC=C(C=C1)N | C12H14N2S
reactant | phthalic anhydride | 2 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | acetonitrile | 75 ml | C(C)#N | C2H3N
product | 2-[4-((2,4-dimethylthiazol-5-yl)methyl)phenylaminocarbonyl]benzoic acid | 3.3 g | CC=1SC(=C(N1)C)CC1=CC=C(C=C1)NC(=O)C1=C(C(=O)O)C=CC=C1 | C20H18N2O3S
